US04052383
Erythro-(1-benzhydryl-2-(α-hydroxybenzyl)piperidine
Reflux under an inert atmosphere for 190 hrs. a stirred suspension of 1.89 g. of erythro-α-(2-piperidyl)phenylmethanol; 2.25 g. of benzhydryl bromide, and 1.00 g. of potassium bicarbonate in 100 ml. of dry acetonitrile containing 14 ml. hexamethylphosphoramide. Cool to room temperature, pour into water, and extract with ether. Wash the extract successively with water and brine and dry over anhydrous sodium sulfate. Acidify the dry ether solution with 4.4 ml. of 1.9 M ethereal HCl. Filter and wash the resultant precipitate with acetone to obtain the analytically pure hydrochloride salt of the title compound, m.p. 232.5°-234° dec.

reactant | benzhydryl bromide | C(C1=CC=CC=C1)(C1=CC=CC=C1)Br | C13H11Br
reactant | potassium bicarbonate | C([O-])(O)=O.[K+]
reactant | acetonitrile | 14 ml | C(C)#N | C2H3N
reactant | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | water | O | H2O
product | 1-benzhydryl-2-(α-hydroxybenzyl)piperidine | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(CCCC1)C(C1=CC=CC=C1)O | C25H27NO
